US04747871
To acetic anhydride (350 ml) at 0° acetone dicarboxylic acid (200 g, 1.37 mole) was added slowly over 1/2 hour with vigorous stirring. After stirring 3 hours, a white solid was filtered and washed with ether (100 ml). Drying the solid 3 hours at 50° C. (0.1 mm) gave acetone dicarboxylic acid anhydride (149 g), m.p. 134°-136° C.

reactant | acetone dicarboxylic acid | 1.37 mole, 200 g | CC(=O)C.C(=O)O.C(=O)O
solvent | acetic anhydride | 350 ml | C(C)(=O)OC(C)=O | C4H6O3
product | acetone dicarboxylic acid anhydride | 149 g | CC(=O)C1C(=O)OC1=O | C5H4O4
